US06548493B1
tert-butyl (±)-cis-2-[2-chloro-4-(trifluoromethyl)phenyl]-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate
The title compound was prepared by the method of Example 90 from tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate (136 mg, 0.30 mmol) and corresponding 2-chloro-4-trifluoromethylphenylboronic acid (128 mg, 0.60 mmol), to afford after chromatographic purification the title compound (160 mg, 99%) as a white amorphous solid. 1H NMR (CDCl3, 300 MHz) δ7.70 (br, 1H), 7.51 (dd, 1H, J=1.1 Hz, 8.0 Hz), 7.42 (d, 1H, J=8.0 Hz), 7.03 (s, 1H), 6.99 (s, 1H), 3.80-3.90 (m, 1H), 3.60-3.80 (m, 1H), 3.10-3.50 (m, 7H), 2.80-3.00 (m, 1H), 1.70-1.90 (m, 2H), 1.48 (s, 9H) ppm. MS (CI, NH3): 479 (base, M+H).

reactant | tert-butyl (±)-cis-2-bromo-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | 0.30 mmol, 136 mg | BrC=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2
reactant | 2-chloro-4-trifluoromethylphenylboronic acid | 0.60 mmol, 128 mg | ClC1=C(C=CC(=C1)C(F)(F)F)B(O)O | C7H5BClF3O2
product | tert-butyl (±)-cis-2-[2-chloro-4-(trifluoromethyl)phenyl]-4,5,7,8,10,10a-hexahydropyrido[4,3-b]pyrrolo[3,2,1-hi]indole-9(6aH)-carboxylate | ClC1=C(C=CC(=C1)C(F)(F)F)C=1C=C2[C@@H]3[C@H](N4C2=C(C1)CC4)CCN(C3)C(=O)OC(C)(C)C | C25H26ClF3N2O2
